US05489586
3-(1-Cyanoethoxy)-5-methoxy-benzo[b]thiophene-2-carboxylic acid methyl ester
To a room temperature solution of methyl 3-hydroxy-5-methoxybenzo[b]thiophene-2-carboxylate (1.00 g, 4.2 mmol) [Connor, et al., J. Med. Chem. 35:958 (1992)] in 20 mL of DMSO is added potassium t-butoxide (494 mg, 4.41 mmol) followed by 2-chloropropionitrile (1.1 mL, 12.6 mmol). The mixture is stirred at room temperature for 1.5 hours then warmed to 82° C. for 3 hours. The reaction mixture is poured into ethyl acetate and 1N HCl. The organic layer is washed with 1N HCl, followed by several portions of brine and dried over MgSO4. Filtration followed by removal of solvent in vacuo and recrystallization of the residue from ethyl acetate:hexane gives 853 mg, mp 127°-129° C.

reactant | methyl 3-hydroxy-5-methoxybenzo[b]thiophene-2-carboxylate | 4.2 mmol, 1.00 g | OC=1C2=C(SC1C(=O)OC)C=CC(=C2)OC | C11H10O4S
reactant | potassium t-butoxide | 4.41 mmol, 494 mg | CC(C)([O-])C.[K+]
reactant | 2-chloropropionitrile | 12.6 mmol, 1.1 mL | ClC(C#N)C | C3H4ClN
reactant | HCl | 1N | Cl | ClH
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(1-Cyanoethoxy)-5-methoxy-benzo[b]thiophene-2-carboxylic acid methyl ester | COC(=O)C1=C(C2=C(S1)C=CC(=C2)OC)OC(C)C#N | C14H13NO4S
